US06552022B1
4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-(4{[(biphenyl-3-ylmethyl)-carbamoyl]-methyl}piperazin-1-yl)-phenyl]-amide
To a stirred solution of (4-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazin-1-yl)-acetic acid (241 mg), biphenyl-3-yl-methylamine (95 mg), HOBt (87 mg), and Et3N (202 mg) in CH2Cl2 (20 mL) was added EDCl (125 mg) and the mixture was stirred at room temperature for 16 hours. The organic solution was then washed with water, with a saturated solution of NaHCO3 and dried over Na2SO4. After filtration and evaporation of the filtrate, the residue was purified by flash chromatography eluting with CH2Cl2/MeOH (97/3) and the solid obtained was recrystallized from EtOH to give the title compound (180 mg) as white crystals.

reactant | (4-{4-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazin-1-yl)-acetic acid | 241 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)CC(=O)O)(F)F | C26H24F3N3O3
reactant | biphenyl-3-yl-methylamine | 95 mg | C1(=CC(=CC=C1)NC)C1=CC=CC=C1 | C13H13N
reactant | HOBt | 87 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 125 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 202 mg | CCN(CC)CC | C6H15N
product | 4′-Trifluoromethyl-biphenyl-2-carboxylic Acid [4-(4{[(biphenyl-3-ylmethyl)-carbamoyl]-methyl}piperazin-1-yl)-phenyl]-amide | 180 mg | C1(=CC(=CC=C1)CNC(=O)CN1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C39H35F3N4O2
